US08835420B2
Preparation x16: (S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile
(S)-1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (200 mg, 0.768 mmol) was dissolved in THF (5 mL) along with 4,6-dichloro-2-(methylthio)pyrimidine-5-carbonitrile (169 mg, 0.768 mmol) and Et3N (0.118 mL, 0.845 mmol) to give an orange suspension. The reaction mixture was stirred at room temperature for 2 h, then diluted with EtOAc and washed aq 1M HCl (3×15 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was then loaded onto an ISCO® silica gel cartridge (12 g) and eluted using an EtOAc/Hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a white solid (117 mg, 61%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.36-1.50 (m, 3 H), 2.43-2.47 (m, 3 H), 2.72-2.88 (m, 2 H), 2.99-3.15 (m, 2 H), 3.68-3.89 (m, 7 H), 5.89-6.02 (m, 1 H), 6.46-6.58 (m, 1 H), 7.04-7.18 (m, 1 H), 7.21-7.42 (m, 2 H), 7.53-7.65 (m, 1 H), 7.82-7.95 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C20H24N8OS, 425.5; found 425.5.

reactant | (S)-1-(1-Methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.768 mmol, 200 mg | CN1C=CC2=NC(=C(C=C21)N2CCOCC2)[C@H](C)N | C14H20N4O
reactant | 4,6-dichloro-2-(methylthio)pyrimidine-5-carbonitrile | 0.768 mmol, 169 mg | ClC1=NC(=NC(=C1C#N)Cl)SC | C6H3Cl2N3S
reactant | Et3N | 0.845 mmol, 0.118 mL | CCN(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-4-Amino-6-((1-(1-methyl-6-morpholino-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | 117 mg, 61% | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CCOCC2)SC | C20H24N8OS
